* NMOS Amplifier Circuit

Vdd 2 0 DC 5V  * Voltage source Vdd
Vin 1 0 DC 1V  * Voltage source Vin

M1 3 1 0 0 NMOS L=1u W=2u
R1 3 0 1k  * Resistor at output
R2 2 3 1k  * Resistor to Vdd

* Node Mapping:
* 1 - Input voltage Vin
* 2 - VDD
* 3 - Vout
* 4 - Ground

.model NMOS NMOS LEVEL=1
.end